US08871314B2
2-Amino-4-anilino-6-methoxypyrimidine was synthesized using 2-amino-4,6-dichloropyrimidine as a starting material through 2-amino-4-chloro-6-methoxypyrimidine. A solution of sodium methoxide in 28% methanol (43 mL) at an internal temperature of 20° C. or less was dropwise added to a mixture of 2-amino-4,6-dichloropyrimidine (32.8 g) and acetone (700 mL) under ice cooling. The reaction was further continued at an internal temperature of 40° C. for 4 hours, and the solution was concentrated under reduced pressure, followed by addition of 500 mL of water. The precipitated solid was collected by filtration and was used without purification for the subsequent step. The crude product of 2-amino-4-chloro-6-methoxypyrimidine, aniline (26.7 mL), methoxyethanol (150 mL), and hydrochloric acid (0.2 mL) were mixed, followed by stirring with heating at 120° C. for 3 hours. After cooling, the reaction solution was added to aqueous sodium bicarbonate (500 mL)/ethyl acetate under ice cooling to extract the product with ethyl acetate. After the concentration, purification by column chromatography (ethyl acetate/n-hexane) was performed to yield 14 g of 2-amino-4-anilino-6-methoxypyrimidine.

reactant | 2-amino-4,6-dichloropyrimidine | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | 2-amino-4-chloro-6-methoxypyrimidine | NC1=NC(=CC(=N1)Cl)OC | C5H6ClN3O
reactant | sodium methoxide | C[O-].[Na+]
reactant | 2-amino-4,6-dichloropyrimidine | 32.8 g | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | acetone | 700 mL | CC(=O)C | C3H6O
solvent | methanol | 43 mL | CO | CH4O
product | 2-amino-4-anilino-6-methoxypyrimidine | 14 g | NC1=NC(=CC(=N1)NC1=CC=CC=C1)OC | C11H12N4O
